US06916922B2
Seven-Membered Ring Closure to 3,4,9,10-Tetrahydro-8H-Cyclopenta[b][1,4]Diazepino[6,7,1-hi]Indol-2(1H)-One
To a suspension of NaH (124 mg, 3.10 mmol) in DMF (3 mL), 2-chloro-N-(1,2,3,4-tetrahydrocyclopenta[b]indol-5-ylmethyl)acetamide (135 mg, 0.515 mmol) in DMF (3 mL) was added at rt under Ar. After 16 h, H2O (2 mL) was added to quench the excess reagent, H2 evolved upon addition. After an additional 30 min, CHCl3 (20 mL) and H2O (10 mL) were added. The two layers were separated. The aqueous layer was extracted with CHCl3 (10 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. Purification on SiO2, eluted with (30:1) CHCl3:CH3OH gave 67 mg (58%) of the title compound as a brown solid.

reactant | NaH | 3.10 mmol, 124 mg | [H-].[Na+]
reactant | 2-chloro-N-(1,2,3,4-tetrahydrocyclopenta[b]indol-5-ylmethyl)acetamide | 0.515 mmol, 135 mg | ClCC(=O)NCC1=CC=CC=2C3=C(NC12)CCC3 | C14H15ClN2O
reactant | H2O | 2 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3,4,9,10-Tetrahydro-8H-Cyclopenta[b][1,4]Diazepino[6,7,1-hi]Indol-2(1H)-One | 67 mg, 58% | C1C(NCC=2C=CC=C3C4=C(N1C23)CCC4)=O | C14H14N2O
